US08633313B2
To a solution of 2-(1,3-dioxolan-2-yl)-5-fluoro-3-nitropyridine (10 g, 46.69 mmol) in ethanol (140 mL) was added Pd/C (1 g) under nitrogen atmosphere. The reaction mixture was stirred for overnight under hydrogen atmosphere at 25° C. The reaction mixture was filtered through Celite™ and washed with EtOH. The filtrate was concentrated in vacuo and residue was purified by column chromatography on silica gel using 0-40% EtOAc in hexane to give 2-(1,3-dioxolan-2-yl)-5-fluoropyridin-3-amine: LC-MS (ESI) m/z 185.2 [M+H]+.

reactant | 2-(1,3-dioxolan-2-yl)-5-fluoro-3-nitropyridine | 46.69 mmol, 10 g | O1C(OCC1)C1=NC=C(C=C1[N+](=O)[O-])F | C8H7FN2O4
solvent | ethanol | 140 mL | C(C)O | C2H6O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 2-(1,3-dioxolan-2-yl)-5-fluoropyridin-3-amine | O1C(OCC1)C1=NC=C(C=C1N)F | C8H9FN2O2
